US06335334B1
176.) 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-N-(4-(1-oxo-thiomorpholine-4-sulfonyl)-phenyl)-benzamide
500 mg (0.82 mmol) of 2-(4-chloro-phenylsulfonylamino)-4,5-dimethoxy-N-(4-(thiomorpholine-4-sulfonyl)-phenyl)-benzamide in 50 ml of acetone were cooled to 0° C. A solution of 371 mg (1.23 mmol) of 57% m-chloroperbenzoic acid in 20 ml of acetone was added and the mixture was stirred at room temperature over night. For working up it was poured onto water/ice and the precipitate was filtered off with suction. The two products obtained as a mixture were separated by chromatography over silica with methylene chloride/methanol (97:3).

reactant | 2-(4-chloro-phenylsulfonylamino)-4,5-dimethoxy-N-(4-(thiomorpholine-4-sulfonyl)-phenyl)-benzamide | 0.82 mmol, 500 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCSCC2)C=C(C(=C1)OC)OC | C25H26ClN3O7S3
reactant | m-chloroperbenzoic acid | 1.23 mmol, 371 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-N-(4-(1-oxo-thiomorpholine-4-sulfonyl)-phenyl)-benzamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCS(CC2)=O)C=C(C(=C1)OC)OC | C25H26ClN3O8S3
